* File: FullAdder.pex.netlist.pex
* Created: Tue Dec  2 22:39:35 2014
* Program "Calibre xRC"
* Version "v2011.1_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FullAdder_X_AXOR2A2_N$467 1 2 4 6 7 8 12 16 22 23 25 29 34 35 48 51
+ 54
c67 48 0 0.0501298f
c68 23 0 0.174894f
c69 22 0 0.215644f
c70 16 0 0.375321f
c71 12 0 0.4614f
c72 8 0 0.968875f
c73 6 0 0.0332111f
c74 4 0 0.0356669f
c75 2 0 0.0926773f
c76 1 0 0.0197042f
r77 37 51 453.125
r78 35 37 53.75
r79 34 37 53.75
r80 31 54 343.75
r81 29 31 41.6667
r82 25 48 0.0583115
r83 23 25 40
r84 23 26 8.26162
r85 19 22 8.21799
r86 19 25 40
r87 14 23 8.26162
r88 14 16 41.4286
r89 12 26 68.5714
r90 10 12 42.1429
r91 8 10 5.58729
r92 8 22 205.714
r93 7 51 0.114286
r94 6 48 0.23
r95 4 7 0.0541558
r96 3 6 0.0558729
r97 3 4 0.17
r98 2 54 0.0583115
r99 1 25 0.0578264
r100 1 2 0.24
.ends

.subckt PM_FullAdder_X6_noxref_7 2 3 4 7 12 13 16 19 24
c30 24 0 0.0543411f
c31 4 0 0.00844637f
c32 3 0 0.0469166f
c33 2 0 0.0608163f
r34 16 24 0.0583115
r35 14 16 343.75
r36 13 14 41.6667
r37 12 14 41.6667
r38 9 19 343.75
r39 7 9 41.6667
r40 5 24 0.17
r41 3 5 0.0558729
r42 3 4 0.46
r43 2 19 0.0583115
r44 1 4 0.0558729
r45 1 2 0.17
.ends

.subckt PM_FullAdder_X_AXOR2A2_N$470 2 3 4 6 7 10 11 13 14 15 17 19 24 26 32 33
+ 37 39 42 44 51 57 60 63
c80 51 0 0.0169339f
c81 26 0 0.215582f
c82 24 0 0.534782f
c83 19 0 0.296633f
c84 17 0 0.0255685f
c85 14 0 0.0277304f
c86 13 0 0.00571996f
c87 11 0 0.144822f
c88 10 0 0.17446f
c89 7 0 0.0972114f
c90 6 0 0.0278153f
c91 4 0 0.0341245f
c92 3 0 0.173786f
c93 2 0 0.173839f
r94 44 60 453.125
r95 42 44 53.75
r96 39 57 453.125
r97 37 39 53.75
r98 35 63 343.75
r99 33 35 41.6667
r100 32 35 41.6667
r101 28 51 0.0428571
r102 26 28 40
r103 26 29 8.4874
r104 22 26 8.4874
r105 22 24 77.1429
r106 19 29 32.8571
r107 15 60 0.114286
r108 13 57 0.157143
r109 12 17 0.0423445
r110 11 51 0.0222012
r111 11 12 0.23
r112 10 15 0.0583115
r113 9 17 0.0110046
r114 9 10 0.49
r115 8 14 0.0423445
r116 7 17 0.0423445
r117 7 8 0.45
r118 6 14 0.0110046
r119 5 63 0.0583115
r120 5 6 0.13
r121 3 14 0.0423445
r122 3 4 0.5
r123 2 13 0.0541558
r124 1 4 0.0558729
r125 1 2 0.44
.ends

.subckt PM_FullAdder_X_AXOR2A2_N$468 1 2
r2 1 2 83.3333
.ends

.subckt PM_FullAdder_X6_noxref_12 1 2
r2 1 2 107.5
.ends

.subckt PM_FullAdder_X_AXOR2A1_N$467 1 2 4 6 7 8 12 16 22 23 25 29 34 35 48 51
+ 54
c78 48 0 0.0487188f
c79 23 0 0.176493f
c80 22 0 0.214187f
c81 16 0 0.370784f
c82 12 0 0.454831f
c83 8 0 0.958475f
c84 6 0 0.0329695f
c85 4 0 0.0345003f
c86 2 0 0.109696f
c87 1 0 0.0197042f
r88 37 51 453.125
r89 35 37 53.75
r90 34 37 53.75
r91 31 54 343.75
r92 29 31 41.6667
r93 25 48 0.0583115
r94 23 25 40
r95 23 26 8.26162
r96 19 22 8.21799
r97 19 25 40
r98 14 23 8.26162
r99 14 16 41.4286
r100 12 26 68.5714
r101 10 12 42.1429
r102 8 10 5.58729
r103 8 22 205.714
r104 7 51 0.114286
r105 6 48 0.23
r106 4 7 0.0541558
r107 3 6 0.0558729
r108 3 4 0.17
r109 2 54 0.0583115
r110 1 25 0.0578264
r111 1 2 0.24
.ends

.subckt PM_FullAdder_X7_noxref_7 2 3 4 7 12 13 16 19 24
c35 24 0 0.0543411f
c36 4 0 0.00844637f
c37 3 0 0.0469166f
c38 2 0 0.0608163f
r39 16 24 0.0583115
r40 14 16 343.75
r41 13 14 41.6667
r42 12 14 41.6667
r43 9 19 343.75
r44 7 9 41.6667
r45 5 24 0.17
r46 3 5 0.0558729
r47 3 4 0.46
r48 2 19 0.0583115
r49 1 4 0.0558729
r50 1 2 0.17
.ends

.subckt PM_FullAdder_X_AXOR2A1_N$470 2 3 4 6 7 10 11 13 14 15 17 19 24 26 32 33
+ 37 42 44 51 57 60 63
c103 51 0 0.0142223f
c104 26 0 0.212651f
c105 24 0 0.538081f
c106 19 0 0.294132f
c107 17 0 0.024073f
c108 14 0 0.0277304f
c109 13 0 0.0057044f
c110 11 0 0.160574f
c111 10 0 0.201988f
c112 7 0 0.0956465f
c113 6 0 0.0428833f
c114 4 0 0.0342642f
c115 3 0 0.167169f
c116 2 0 0.175802f
r117 44 60 453.125
r118 42 44 53.75
r119 39 57 453.125
r120 37 39 53.75
r121 35 63 343.75
r122 33 35 41.6667
r123 32 35 41.6667
r124 28 51 0.0428571
r125 26 28 40
r126 26 29 8.4874
r127 22 26 8.4874
r128 22 24 77.1429
r129 19 29 32.8571
r130 15 60 0.114286
r131 13 57 0.157143
r132 12 17 0.0423445
r133 11 51 0.0222012
r134 11 12 0.23
r135 10 15 0.0583115
r136 9 17 0.0110046
r137 9 10 0.49
r138 8 14 0.0423445
r139 7 17 0.0423445
r140 7 8 0.45
r141 6 14 0.0110046
r142 5 63 0.0583115
r143 5 6 0.13
r144 3 14 0.0423445
r145 3 4 0.5
r146 2 13 0.0541558
r147 1 4 0.0558729
r148 1 2 0.44
.ends

.subckt PM_FullAdder_X_AXOR2A1_N$468 1 2
r2 1 2 83.3333
.ends

.subckt PM_FullAdder_X7_noxref_12 1 2
r4 1 2 107.5
.ends

.subckt PM_FullAdder_X_AND02A1_N$649 1 2 3
r8 2 3 41.6667
r9 1 3 41.6667
.ends

.subckt PM_FullAdder_X_AND02A1_N$647 1 2 5 8 9 10 13 16 20 22 25 27 30 31 34 45
c70 22 0 0.274099f
c71 20 0 0.167818f
c72 16 0 0.565838f
c73 11 0 0.0243597f
c74 10 0 0.141122f
c75 8 0 0.0627064f
c76 5 0 0.0905861f
c77 1 0 0.0596883f
r78 32 34 453.125
r79 31 32 53.75
r80 30 32 53.75
r81 27 45 343.75
r82 25 27 45.8333
r83 20 23 8.21799
r84 20 22 8.21799
r85 20 38 40
r86 16 23 90
r87 13 22 28.5714
r88 9 34 0.121429
r89 9 10 0.055541
r90 7 45 0.0583115
r91 7 8 0.16
r92 6 11 0.0423445
r93 5 8 0.0558729
r94 5 6 0.17
r95 3 11 0.0110046
r96 3 10 0.51
r97 2 38 0.0583115
r98 1 11 0.0423445
r99 1 2 0.25
.ends

.subckt PM_FullAdder_X_AND02A2_N$649 1 2 3
r11 2 3 41.6667
r12 1 3 41.6667
.ends

.subckt PM_FullAdder_X_AND02A2_N$647 1 2 5 8 9 10 11 13 16 20 22 25 27 30 31 34
+ 45
c84 22 0 0.274099f
c85 20 0 0.168353f
c86 16 0 0.547354f
c87 11 0 0.0223989f
c88 10 0 0.139692f
c89 8 0 0.0601019f
c90 5 0 0.0768985f
c91 1 0 0.0538314f
r92 32 34 453.125
r93 31 32 53.75
r94 30 32 53.75
r95 27 45 343.75
r96 25 27 45.8333
r97 20 23 8.21799
r98 20 22 8.21799
r99 20 38 40
r100 16 23 90
r101 13 22 28.5714
r102 9 34 0.121429
r103 9 10 0.055541
r104 7 45 0.0583115
r105 7 8 0.16
r106 6 11 0.0423445
r107 5 8 0.0558729
r108 5 6 0.17
r109 3 11 0.0110046
r110 3 10 0.51
r111 2 38 0.0583115
r112 1 11 0.0423445
r113 1 2 0.25
.ends

.subckt PM_FullAdder_COUT 4 5 7 12 19 21 25 28 33 37
c44 37 0 0.232701f
c45 33 0 0.0460015f
c46 28 0 0.0848652f
c47 25 0 0.144648f
c48 21 0 0.629281f
c49 5 0 0.0344652f
c50 4 0 0.0408036f
r51 31 33 0.05
r52 25 38 0.0695997
r53 25 37 0.0695997
r54 23 25 16.8
r55 19 23 0.0564744
r56 19 21 1.1225
r57 14 28 453.125
r58 12 14 53.75
r59 9 33 343.75
r60 7 9 41.6667
r61 5 28 0.0763158
r62 4 5 0.0723252
r63 4 38 0.09
r64 1 31 0.0222012
r65 1 37 0.49
.ends

.subckt PM_FullAdder_N$18 2 4 5 7 12 20 21 26 32 37 39 41 46 47 49 50 51 53 55
+ 60 62
c108 62 0 0.0539072f
c109 55 0 0.0829223f
c110 53 0 0.0229677f
c111 51 0 0.015266f
c112 50 0 0.107603f
c113 49 0 5.76118e-19
c114 46 0 0.0638535f
c115 41 0 0.058996f
c116 39 0 0.177682f
c117 37 0 0.509111f
c118 32 0 0.316092f
c119 26 0 0.0488246f
c120 21 0 0.0862038f
c121 20 0 0.163464f
c122 5 0 0.0378692f
c123 4 0 0.187869f
c124 2 0 0.119148f
r125 60 62 0.0564744
r126 60 64 16.8
r127 55 62 0.265833
r128 53 55 0.0558729
r129 52 53 0.06
r130 50 52 0.0558729
r131 50 51 0.564167
r132 48 51 0.0558729
r133 48 49 0.0816667
r134 47 56 0.0564744
r135 46 49 0.0558729
r136 46 47 0.2875
r137 41 64 0.105634
r138 39 41 40
r139 39 42 8.32385
r140 35 39 8.32385
r141 35 37 77.1429
r142 32 42 41.4286
r143 24 26 0.0571429
r144 20 56 16.8
r145 14 21 453.125
r146 12 14 53.75
r147 9 26 343.75
r148 7 9 41.6667
r149 5 21 0.07
r150 4 5 0.0749833
r151 3 20 0.0695997
r152 3 4 0.36
r153 2 20 0.0695997
r154 1 24 0.0222012
r155 1 2 0.23
.ends

.subckt PM_FullAdder_N$21 2 4 5 7 12 20 21 26 32 37 39 42 46 47 48 50 51 55
c113 55 0 0.0386899f
c114 50 0 0.124442f
c115 48 0 0.0273666f
c116 47 0 0.428955f
c117 46 0 0.0742178f
c118 42 0 0.106646f
c119 39 0 0.282568f
c120 37 0 0.518786f
c121 32 0 0.346765f
c122 26 0 0.040194f
c123 21 0 0.0696197f
c124 20 0 0.14215f
c125 5 0 0.0269966f
c126 4 0 0.157262f
c127 2 0 0.100996f
r128 55 57 0.0296774
r129 55 61 16.8
r130 50 57 0.0183485
r131 49 50 0.261667
r132 47 49 0.0558729
r133 47 48 3.24917
r134 46 51 0.0564744
r135 45 48 0.0558729
r136 45 46 0.253333
r137 42 61 0.0660264
r138 40 42 40
r139 39 40 7.36434
r140 35 39 3.53788
r141 35 37 72.8571
r142 31 39 3.53788
r143 31 32 45.7143
r144 24 26 0.0571429
r145 20 51 16.8
r146 14 21 453.125
r147 12 14 53.75
r148 9 26 343.75
r149 7 9 41.6667
r150 5 21 0.07
r151 4 5 0.0749833
r152 3 20 0.0695997
r153 3 4 0.36
r154 2 20 0.0695997
r155 1 24 0.0222012
r156 1 2 0.23
.ends

.subckt PM_FullAdder_SUM 4 5 7 12 14 20 21 24 29 33 34 36 38
c65 36 0 1.74231f
c66 34 0 0.0318129f
c67 33 0 0.252444f
c68 29 0 0.145915f
c69 20 0 0.166148f
c70 4 0 0.0449457f
r71 34 36 4.09
r72 33 38 0.0564744
r73 32 34 0.0558729
r74 32 33 0.796667
r75 20 30 0.0699833
r76 20 29 0.0699833
r77 20 38 16.8
r78 14 21 453.125
r79 12 14 53.75
r80 9 24 343.75
r81 7 9 41.6667
r82 5 21 0.114286
r83 4 5 0.055541
r84 4 30 0.14
r85 1 24 0.0583115
r86 1 29 0.4
.ends

.subckt PM_FullAdder_B 2 7 9 10 12 15 18 25 32 36 39 42 47 48 56 58 61 62 63 65
+ 66 67 69 70 71 72
c173 71 0 0.0167776f
c174 70 0 0.0249658f
c175 69 0 0.0225782f
c176 66 0 0.150728f
c177 65 0 0.104781f
c178 63 0 0.0542905f
c179 62 0 1.31599f
c180 61 0 0.174646f
c181 56 0 0.460898f
c182 48 0 0.00205975f
c183 47 0 0.05453f
c184 42 0 0.339962f
c185 39 0 0.182223f
c186 32 0 0.477568f
c187 25 0 0.0887593f
c188 18 0 0.205484f
c189 12 0 0.890906f
c190 10 0 0.0465634f
c191 9 0 0.715033f
c192 7 0 0.49159f
c193 2 0 0.358997f
r194 70 72 0.0564744
r195 70 71 0.1125
r196 68 71 0.0558729
r197 68 69 0.065
r198 66 69 0.0558729
r199 66 67 0.566667
r200 65 67 0.0558729
r201 64 65 1.01417
r202 62 64 0.0558729
r203 62 63 4.05417
r204 60 63 0.0558729
r205 60 61 0.705
r206 56 58 0.640833
r207 47 48 0.0642857
r208 46 47 0.0552052
r209 46 72 16.8
r210 39 42 8.32385
r211 39 41 8.32385
r212 39 48 40
r213 36 42 35.7143
r214 32 41 82.8571
r215 24 61 0.0298527
r216 24 56 0.0260202
r217 24 25 16.8
r218 18 21 8.4874
r219 18 20 8.4874
r220 18 25 40
r221 12 15 132.857
r222 11 15 54.2857
r223 9 11 5.58729
r224 9 10 151.429
r225 7 21 58.5714
r226 6 10 5.58729
r227 6 7 52.8571
r228 2 20 50
.ends

.subckt PM_FullAdder_A 2 6 12 16 19 23 24 29 36 40 46 53 59 61 64 66 67 68 69
+ 72 73 74 76 77 78 81
c224 77 0 0.0351893f
c225 76 0 0.150518f
c226 73 0 0.196127f
c227 72 0 0.043837f
c228 69 0 0.0373584f
c229 68 0 0.0225108f
c230 67 0 0.592354f
c231 66 0 0.0280958f
c232 64 0 0.0150477f
c233 59 0 0.352882f
c234 53 0 0.140358f
c235 46 0 0.237089f
c236 40 0 0.436308f
c237 36 0 0.421182f
c238 29 0 0.0369477f
c239 24 0 0.23217f
c240 23 0 0.217281f
c241 19 0 0.025988f
c242 16 0 0.354793f
c243 12 0 0.428416f
c244 6 0 0.425527f
c245 2 0 0.393551f
r246 75 81 0.0564744
r247 75 76 0.368333
r248 73 76 0.0558729
r249 73 74 1.7025
r250 72 74 0.0558729
r251 71 72 0.886667
r252 70 77 0.0110046
r253 69 78 0.0564744
r254 69 70 0.32
r255 67 71 0.0558729
r256 67 68 3.425
r257 66 77 0.0423445
r258 65 68 0.0558729
r259 65 66 0.5025
r260 63 77 0.0423445
r261 63 64 0.0675
r262 59 64 0.0558729
r263 59 61 0.945
r264 52 53 0.0533175
r265 52 81 16.8
r266 46 53 40
r267 43 46 7.1875
r268 39 43 4.59228
r269 39 40 55.7143
r270 35 43 4.59228
r271 35 36 62.8571
r272 29 78 16.8
r273 21 24 5.67568
r274 21 23 8.36051
r275 21 29 40
r276 15 24 5.32009
r277 15 16 40
r278 12 24 66.4286
r279 10 19 1.10046
r280 10 23 52.8571
r281 5 19 4.23445
r282 5 6 57.8571
r283 1 19 4.23445
r284 1 2 63.5714
.ends

.subckt PM_FullAdder_N$29 4 5 7 9 12 14 20 21 24 29 32 37 39 40 42 45 48 55 62
+ 65 67 68 70 75 77 87 88 89 92 93 94 96 97 98 100
c190 104 0 0.121548f
c191 100 0 0.012491f
c192 98 0 0.0120805f
c193 97 0 0.717754f
c194 96 0 0.0850091f
c195 94 0 0.0175637f
c196 93 0 0.132266f
c197 92 0 0.0741629f
c198 89 0 0.14614f
c199 87 0 0.052967f
c200 77 0 0.0547395f
c201 70 0 0.00199986f
c202 68 0 0.183895f
c203 65 0 0.347927f
c204 62 0 0.462349f
c205 55 0 0.0909913f
c206 48 0 0.205484f
c207 42 0 0.84336f
c208 40 0 0.0465634f
c209 39 0 0.719317f
c210 37 0 0.489946f
c211 32 0 0.351405f
c212 29 0 0.182782f
c213 20 0 0.168891f
c214 4 0 0.0455735f
r215 104 106 0.0933333
r216 100 110 0.4725
r217 97 100 0.0558729
r218 97 98 2.67333
r219 96 98 0.0558729
r220 95 96 0.875833
r221 93 95 0.0558729
r222 93 94 0.950833
r223 91 94 0.0558729
r224 91 92 0.145
r225 90 104 0.00587288
r226 89 90 0.206667
r227 88 101 0.0564744
r228 87 106 0.00587288
r229 87 88 0.105
r230 77 82 0.0552052
r231 75 110 0.0564744
r232 75 82 16.8
r233 70 77 0.0642857
r234 68 70 40
r235 68 71 8.32385
r236 65 68 8.32385
r237 65 67 35.7143
r238 62 71 82.8571
r239 54 92 0.0306867
r240 54 89 0.0251862
r241 54 55 16.8
r242 48 51 8.4874
r243 48 50 8.4874
r244 48 55 40
r245 42 45 132.857
r246 41 45 54.2857
r247 39 41 5.58729
r248 39 40 151.429
r249 37 51 58.5714
r250 36 40 5.58729
r251 36 37 52.8571
r252 32 50 50
r253 20 30 0.0699833
r254 20 29 0.0699833
r255 20 101 16.8
r256 14 21 453.125
r257 12 14 53.75
r258 9 24 343.75
r259 7 9 41.6667
r260 5 21 0.114286
r261 4 5 0.055541
r262 4 30 0.14
r263 1 24 0.0583115
r264 1 29 0.4
.ends

.subckt PM_FullAdder_CIN 2 6 12 16 19 23 24 29 36 40 46 53 59 61 64 66 67 68 69
+ 70 72 73 74 77
c179 73 0 1.11633e-19
c180 72 0 0.277598f
c181 70 0 0.0307803f
c182 69 0 0.0654697f
c183 68 0 0.0403997f
c184 67 0 1.35482f
c185 66 0 0.0158979f
c186 64 0 0.073847f
c187 59 0 0.799501f
c188 53 0 0.133332f
c189 46 0 0.237089f
c190 40 0 0.436707f
c191 36 0 0.421003f
c192 29 0 0.039835f
c193 24 0 0.23217f
c194 23 0 0.213595f
c195 19 0 0.0281331f
c196 16 0 0.354618f
c197 12 0 0.417823f
c198 6 0 0.410717f
c199 2 0 0.401453f
r200 71 77 0.0564744
r201 71 72 0.810833
r202 69 74 0.0564744
r203 69 70 0.309167
r204 67 72 0.0558729
r205 67 68 4.02833
r206 66 73 0.0423445
r207 65 70 0.0558729
r208 65 66 0.286667
r209 64 68 0.0558729
r210 63 73 0.0423445
r211 63 64 0.335
r212 59 73 0.0110046
r213 59 61 3.4025
r214 52 53 0.0533175
r215 52 77 16.8
r216 46 53 40
r217 43 46 7.1875
r218 39 43 4.59228
r219 39 40 55.7143
r220 35 43 4.59228
r221 35 36 62.8571
r222 29 74 16.8
r223 21 24 5.67568
r224 21 23 8.36051
r225 21 29 40
r226 15 24 5.32009
r227 15 16 40
r228 12 24 66.4286
r229 10 19 1.10046
r230 10 23 52.8571
r231 5 19 4.23445
r232 5 6 57.8571
r233 1 19 4.23445
r234 1 2 63.5714
.ends

.subckt PM_FullAdder_X_OR02A1_N$429 1 2 3
r6 2 3 53.75
r7 1 3 53.75
.ends

.subckt PM_FullAdder_X_OR02A1_N$431 1 2 4 5 8 9 10 12 16 19 22 24 25 29 44
c64 22 0 0.377553f
c65 19 0 0.182702f
c66 12 0 0.467481f
c67 9 0 0.0209096f
c68 8 0 0.0617211f
c69 5 0 0.0668716f
c70 4 0 0.14034f
c71 1 0 0.0518343f
r72 30 32 453.125
r73 29 30 53.75
r74 27 44 343.75
r75 25 27 41.6667
r76 24 27 41.6667
r77 19 22 8.32385
r78 19 21 8.32385
r79 19 37 40
r80 16 22 40
r81 12 21 78.5714
r82 10 32 0.121429
r83 8 10 0.0541558
r84 7 8 0.16
r85 6 9 0.0423445
r86 5 7 0.0558729
r87 5 6 0.15
r88 4 9 0.0110046
r89 3 44 0.0583115
r90 3 4 0.5
r91 2 37 0.0583115
r92 1 9 0.0423445
r93 1 2 0.24
.ends

.subckt PM_FullAdder_GND 2 4 6 11 13 16 18 21 80 93 96 100 104 106 108 113 115
+ 118 120 123 182 195 198 202 206 211 212 241 245 250 251 280 319 320 321 322 323
+ 325 339 341 342 344 346 348 352 353 357 359 375 393 396
c149 348 0 0.448699f
c150 347 0 0.088005f
c151 346 0 1.51824f
c152 342 0 1.10762f
c153 341 0 0.377706f
c154 339 0 0.357652f
c155 325 0 1.52058f
c156 323 0 1.24274f
c157 322 0 0.411335f
c158 321 0 1.48844f
c159 320 0 0.411335f
c160 319 0 1.06159f
c161 248 0 0.0942601f
c162 245 0 0.357652f
c163 209 0 0.0942601f
c164 206 0 0.357652f
c165 182 0 1.04297f
c166 111 0 0.0942601f
c167 108 0 0.313655f
c168 106 0 0.293019f
c169 104 0 0.339556f
c170 80 0 1.04297f
c171 9 0 0.0942601f
c172 6 0 0.344455f
c173 4 0 0.294258f
c174 2 0 0.339556f
r175 389 391 0.09
r176 375 389 906.25
r177 375 391 906.25
r178 364 375 906.25
r179 359 396 343.75
r180 357 359 41.6667
r181 355 393 343.75
r182 353 355 41.6667
r183 352 355 41.6667
r184 348 391 0.0125
r185 348 349 0.0125
r186 346 364 0.055
r187 346 347 0.0120039
r188 345 389 0.01
r189 345 347 0.0120039
r190 342 349 0.0887172
r191 342 344 0.0628834
r192 341 396 0.0583115
r193 340 349 0.0748438
r194 340 341 0.6
r195 339 393 0.0583115
r196 338 347 0.0539771
r197 338 339 0.6
r198 269 364 0.18325
r199 269 375 906.25
r200 263 269 0.09
r201 263 326 0.022
r202 263 375 906.25
r203 257 325 0.043
r204 257 375 906.25
r205 253 280 343.75
r206 251 253 41.6667
r207 250 253 41.6667
r208 248 325 0.0120039
r209 248 326 0.0120039
r210 245 280 0.0583115
r211 244 248 0.0539771
r212 244 245 0.59
r213 230 257 0.19575
r214 230 375 906.25
r215 224 230 0.09
r216 224 324 0.022
r217 224 375 906.25
r218 218 323 0.043
r219 218 375 906.25
r220 214 241 343.75
r221 212 214 41.6667
r222 211 214 41.6667
r223 209 323 0.0120039
r224 209 324 0.0120039
r225 206 241 0.0583115
r226 205 209 0.0539771
r227 205 206 0.59
r228 194 322 0.0125
r229 182 191 0.0125
r230 166 218 0.1975
r231 166 322 0.04
r232 166 375 906.25
r233 160 194 0.0375
r234 160 191 0.0475
r235 160 375 906.25
r236 154 182 0.03
r237 154 375 906.25
r238 148 154 0.09
r239 148 375 906.25
r240 142 148 0.09
r241 142 375 906.25
r242 136 321 0.0225
r243 136 375 906.25
r244 130 136 0.09
r245 130 375 906.25
r246 125 202 343.75
r247 123 125 41.6667
r248 120 198 343.75
r249 118 120 41.6667
r250 115 195 343.75
r251 113 115 41.6667
r252 111 321 0.0120039
r253 109 142 0.0425
r254 109 111 0.0120039
r255 108 202 0.0583115
r256 107 194 0.0748438
r257 107 108 0.65
r258 106 198 0.0583115
r259 105 191 0.0748438
r260 105 106 0.65
r261 104 195 0.0583115
r262 103 111 0.0539771
r263 103 104 0.67
r264 92 320 0.0125
r265 80 89 0.0125
r266 64 130 0.195
r267 64 320 0.04
r268 64 375 906.25
r269 58 92 0.0375
r270 58 89 0.0475
r271 58 375 906.25
r272 52 80 0.03
r273 52 375 906.25
r274 46 52 0.09
r275 46 375 906.25
r276 40 46 0.09
r277 40 375 906.25
r278 34 319 0.0225
r279 34 375 906.25
r280 28 34 0.09
r281 28 375 906.25
r282 23 100 343.75
r283 21 23 41.6667
r284 18 96 343.75
r285 16 18 41.6667
r286 13 93 343.75
r287 11 13 41.6667
r288 9 319 0.0120039
r289 7 40 0.0425
r290 7 9 0.0120039
r291 6 100 0.0583115
r292 5 92 0.0748438
r293 5 6 0.65
r294 4 96 0.0583115
r295 3 89 0.0748438
r296 3 4 0.65
r297 2 93 0.0583115
r298 1 9 0.0539771
r299 1 2 0.67
.ends

.subckt PM_FullAdder_VDD 3 7 8 11 12 15 16 18 21 69 74 79 80 84 107 109 112 114
+ 139 143 144 147 148 151 152 154 157 160 205 210 215 216 220 243 245 248 250 275
+ 276 279 284 304 305 309 311 322 324 336 337 340 345 365 366 370 372 383 385 429
+ 432 435 436 438 439 452 453 456 458 476 481 482 493
c221 460 0 0.767752f
c222 459 0 0.0942601f
c223 458 0 1.08928f
c224 454 0 0.994098f
c225 453 0 0.394699f
c226 439 0 0.258354f
c227 438 0 0.998894f
c228 436 0 0.274545f
c229 435 0 1.20663f
c230 432 0 0.270725f
c231 429 0 0.293272f
c232 345 0 0.55596f
c233 344 0 0.0869625f
c234 337 0 0.356624f
c235 284 0 0.556656f
c236 283 0 0.0869625f
c237 276 0 0.33641f
c238 253 0 0.843282f
c239 250 0 0.0289655f
c240 243 0 0.016964f
c241 161 0 0.0942601f
c242 160 0 0.503479f
c243 158 0 0.08592f
c244 157 0 0.428282f
c245 155 0 0.0921751f
c246 154 0 1.09877f
c247 152 0 0.358385f
c248 148 0 0.328436f
c249 144 0 0.276831f
c250 117 0 0.642937f
c251 114 0 0.0289763f
c252 107 0 0.0158002f
c253 25 0 0.0942601f
c254 24 0 0.551859f
c255 22 0 0.08592f
c256 21 0 0.434518f
c257 19 0 0.0921751f
c258 18 0 0.809459f
c259 16 0 0.416673f
c260 12 0 0.361551f
c261 8 0 0.330269f
r262 499 502 0.09
r263 484 493 453.125
r264 482 484 53.75
r265 481 484 53.75
r266 476 499 343.75
r267 476 502 343.75
r268 465 495 0.18025
r269 465 476 343.75
r270 460 502 0.0525
r271 458 465 0.0475
r272 458 459 0.0120039
r273 457 499 0.0175
r274 457 459 0.0120039
r275 454 460 0.0518673
r276 454 456 0.0638554
r277 453 459 0.0539771
r278 452 493 0.0583115
r279 452 453 0.59
r280 439 495 0.0748438
r281 436 448 0.0748438
r282 432 444 0.0748438
r283 429 441 0.0748438
r284 372 385 453.125
r285 370 372 53.75
r286 368 383 453.125
r287 366 368 53.75
r288 365 368 53.75
r289 361 476 343.75
r290 355 361 0.09
r291 355 476 343.75
r292 349 438 0.05625
r293 349 448 0.172
r294 349 476 343.75
r295 345 495 0.0125
r296 345 361 0.01125
r297 344 438 0.0120039
r298 342 355 0.00875
r299 342 344 0.0120039
r300 340 385 0.0583115
r301 340 439 0.59
r302 337 344 0.0539771
r303 336 383 0.0583115
r304 336 337 0.59
r305 311 324 453.125
r306 309 311 53.75
r307 307 322 453.125
r308 305 307 53.75
r309 304 307 53.75
r310 300 476 343.75
r311 294 300 0.09
r312 294 476 343.75
r313 288 435 0.05625
r314 288 476 343.75
r315 284 448 0.0125
r316 284 300 0.01125
r317 283 435 0.0120039
r318 281 294 0.00875
r319 281 283 0.0120039
r320 279 324 0.0583115
r321 279 436 0.59
r322 276 283 0.0539771
r323 275 322 0.0583115
r324 275 276 0.59
r325 222 250 453.125
r326 220 222 53.75
r327 218 248 453.125
r328 216 218 53.75
r329 215 218 53.75
r330 212 245 453.125
r331 210 212 53.75
r332 207 243 453.125
r333 205 207 53.75
r334 201 288 0.18425
r335 201 434 0.0375
r336 201 476 343.75
r337 195 476 343.75
r338 189 195 0.09
r339 189 476 343.75
r340 183 476 343.75
r341 177 476 343.75
r342 171 177 0.09
r343 171 253 0.0875
r344 171 476 343.75
r345 165 253 0.0025
r346 165 444 0.01
r347 165 476 343.75
r348 161 434 0.0120039
r349 160 195 0.0275
r350 160 161 0.0120039
r351 157 183 0.0575
r352 157 158 0.0120039
r353 156 189 0.0075
r354 156 158 0.0120039
r355 154 177 0.015
r356 154 155 0.0120039
r357 153 183 0.05
r358 153 155 0.0120039
r359 152 161 0.0539771
r360 151 250 0.0583115
r361 151 152 0.59
r362 148 158 0.0539771
r363 147 248 0.0583115
r364 147 148 0.59
r365 144 155 0.0539771
r366 143 245 0.0583115
r367 143 144 0.59
r368 139 243 0.0583115
r369 139 432 0.58
r370 86 114 453.125
r371 84 86 53.75
r372 82 112 453.125
r373 80 82 53.75
r374 79 82 53.75
r375 76 109 453.125
r376 74 76 53.75
r377 71 107 453.125
r378 69 71 53.75
r379 65 444 0.185
r380 65 431 0.0375
r381 65 476 343.75
r382 59 476 343.75
r383 53 59 0.09
r384 53 476 343.75
r385 47 476 343.75
r386 41 476 343.75
r387 35 41 0.09
r388 35 117 0.0875
r389 35 476 343.75
r390 29 117 0.0025
r391 29 441 0.01
r392 29 476 343.75
r393 25 431 0.0120039
r394 24 59 0.0275
r395 24 25 0.0120039
r396 21 47 0.0575
r397 21 22 0.0120039
r398 20 53 0.0075
r399 20 22 0.0120039
r400 18 41 0.015
r401 18 19 0.0120039
r402 17 47 0.05
r403 17 19 0.0120039
r404 16 25 0.0539771
r405 15 114 0.0583115
r406 15 16 0.59
r407 12 22 0.0539771
r408 11 112 0.0583115
r409 11 12 0.59
r410 8 19 0.0539771
r411 7 109 0.0583115
r412 7 8 0.59
r413 3 107 0.0583115
r414 3 429 0.58
.ends

